US09422281B2
A solution of (S)-4-acetyl-3-methyl-7-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carbonyl chloride (0.050 g, 0.13 mmol) in 1,2-dichloroethane (1 mL) was added dropwise to a 50° C. solution of pyridine-3-ol (0.053 g, 0.26 mmol) and pyridine (1 mL) in 1,2-dichloroethane (20 mL). The resulting solution was stirred for 6 h at 50° C. and then concentrated under vacuum. The residue was purified by preparative thin layer chromatography (eluting with 1-20% methanol-dichloromethane) and then by preparative-HPLC (conditions: Column, SunFire™Prep C18OBD™, 19×150 nm; Mobile phase, A: 0.05% ammonium carbonate, B: acetonitrile; Detector, 220 and 254 nm) to afford (S)-pyridin-3-yl 4-acetyl-3-methyl-7-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.026 mg, 46%) as a white solid. 1H NMR (300 MHz, CD3OD) 1.17 (d, J=6.60 Hz, 3H), 2.27 (s, 3H), 3.50-3.79 (m, 1H), 4.35-4.45 (m, 1H), 5.02-5.25 (m, 5H), 5.55-5.65 (m, 1H), 7.39-7.49 (m, 2H), 7.51-7.57 (m, 1H), 7.78-7.83 (m, 1H), 7.97 (s, 1H), 8.10-8.19 (m, 2H), 8.47-8.50 (m, 1H), 8.52-8.56 (m, 1H). MS (ESI, pos. ion) m/z 434 [M+H]+.

reactant | (S)-4-acetyl-3-methyl-7-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carbonyl chloride | 0.13 mmol, 0.050 g | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1COC1)C(=O)Cl)C | C18H19ClN4O3
reactant | pyridine-3-ol | 0.26 mmol, 0.053 g | N1=CC(=CC=C1)O | C5H5NO
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | (S)-pyridin-3-yl 4-acetyl-3-methyl-7-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.026 mg, 46% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1COC1)C(=O)OC=1C=NC=CC1)C | C23H23N5O4
